US07674809B2
42b) 2-phenyl-6-nitrobenzoxazole
PPA (160 g) is added to benzoic acid (14.26 g, 0.117 mol) and 2-amino-5-nitrophenol (20 g, 0.117 mol). The mixture is heated at 115-120° C. for 30 minutes and cooled, and water (200 ml) is added dropwise, followed by addition of 32% NaOH (pH=10). The product is filtered off, washed with water and filtered off. It is recrystallized from isopropyl ether. Yield: 25 g (90%); Elem. anal. C13H8N2O3; theory C, 65.00; H, 3.35; N, 11.66. found C, 64.56; H, 3.22; N, 11.43. IR (KBr): 1551, 1515, 1340 cm−1.

reactant | benzoic acid | 0.117 mol, 14.26 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-amino-5-nitrophenol | 0.117 mol, 20 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | NaOH | pH=10 | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-phenyl-6-nitrobenzoxazole | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C13H8N2O3
